US20010027196A1
2-Amino-4-[2-(3-amino-4-nitro-phenylamino)-ethylamino]-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and N5-(2-amino-ethyl)-2-nitro-benzene-1,5-diamine in DME. ES-MS m/e (%): 403 (M+Na+, 50), 381 (M+H+, 100), 269 (46).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | N5-(2-amino-ethyl)-2-nitro-benzene-1,5-diamine | NCCNC=1C=CC(=C(C1)N)[N+](=O)[O-] | C8H12N4O2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-[2-(3-amino-4-nitro-phenylamino)-ethylamino]-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCNC1=CC(=C(C=C1)[N+](=O)[O-])N)C#N)C=1OC=CC1 | C17H16N8O3
